US09315458B2
To a solution of methyl 3-fluoro-2-hydroxy-4-methoxy-5-[4-(1H-pyrazol-1-yl)benzyl]benzoate (0.21 g) in DMF (5.00 mL) was added sodium hydride (0.03 g) under ice-cooling, and the mixture was stirred at room temperature for 0.5 hr under argon atmosphere. To the reaction mixture was added N-phenylbis(trifluoromethanesulfonimide) (0.23 g), and the mixture was stirred at room temperature for 0.5 hr under argon atmosphere. To the reaction mixture was added 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give methyl 3-fluoro-4-methoxy-5-[4-(1H-pyrazol-1-yl)benzyl]-2-{[(trifluoromethyl)sulfonyl]oxy}benzoate as a crude product. To a mixture of the obtained crude product, tributylvinyltin (0.26 mL) and lithium chloride (0.19 g) in DMF (5.00 mL) was added bis(triphenylphosphine)palladium(II) dichloride (0.02 g), and the mixture was stirred at 90° C. for 2 hr under argon atmosphere. To the reaction mixture was added 10% aqueous potassium fluoride solution, and the precipitated insoluble substance was removed by filtration through Celite. To the filtrate was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.12 g).

reactant | methyl 3-fluoro-2-hydroxy-4-methoxy-5-[4-(1H-pyrazol-1-yl)benzyl]benzoate | 0.21 g | FC=1C(=C(C(=O)OC)C=C(C1OC)CC1=CC=C(C=C1)N1N=CC=C1)O | C19H17FN2O4
reactant | sodium hydride | 0.03 g | [H-].[Na+]
reactant | N-phenylbis(trifluoromethanesulfonimide) | 0.23 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | DMF | 5.00 mL | CN(C)C=O | C3H7NO
product | methyl 3-fluoro-4-methoxy-5-[4-(1H-pyrazol-1-yl)benzyl]-2-{[(trifluoromethyl)sulfonyl]oxy}benzoate | FC=1C(=C(C(=O)OC)C=C(C1OC)CC1=CC=C(C=C1)N1N=CC=C1)OS(=O)(=O)C(F)(F)F | C20H16F4N2O6S
